US07989461B2
2,3-Dihydro-1H-inden-5-amine (109 mg, 821 μmol), 4-chloro-8-iodo-7-methylquinazoline (250 mg, 821 μmol) and IPA (5 mL) were added to microwave-vial. The reaction mixture was heated at 110° C. for 10 min. A precipitate formed upon cooling. The crude product was diluted with EtOAc (20 mL), filtered, washed twice with EtOAc (20 mL) and air-dried to give N-(2,3-dihydro-1H-inden-5-yl)-8-iodo-7-methylquinazolin-4-amine hydrochloride (311 mg, 87%) as an amorphous off-white solid. MS (M+H)+ 402.

reactant | 2,3-Dihydro-1H-inden-5-amine | 821 μmol, 109 mg | C1CCC2=CC(=CC=C12)N | C9H11N
reactant | 4-chloro-8-iodo-7-methylquinazoline | 821 μmol, 250 mg | ClC1=NC=NC2=C(C(=CC=C12)C)I | C9H6ClIN2
reactant | IPA | 5 mL | CC(C)O | C3H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-(2,3-dihydro-1H-inden-5-yl)-8-iodo-7-methylquinazolin-4-amine hydrochloride | 311 mg, 87% | Cl.C1CCC2=CC(=CC=C12)NC1=NC=NC2=C(C(=CC=C12)C)I | InChI=1S/C18H16IN3.ClH/c1-11-5-8-15-17(16(11)19)20-10-21-18(15)22-14-7-6-12-3-2-4-13(12)9-14;/h5-10H,2-4H2,1H3,(H,20,21,22);1H
